US06310079B1
(E)-5-Amino-1-(2-pyridyl)-2-styryl-1H-benzimidazole
Iron powder (1.95 g, 35 mmol) and ammonium chloride (200 mg, 3.7 mmol) was added to a solution of (E)-5-nitro-1-(2-pyridyl)-2-styryl-1H-benzimidazole (2.41 g, 7.0 mmol) in ethanol (50 ml) and water (25 ml). After the reaction mixture was refluxed for 3 h, the hot reaction mixture was filtered through a pad of celite and the filtrate was evaporated under reduced pressure. The obtained residue was partitioned between ethyl acetate (200 ml) and saturated aqueous sodium bicarbonate solution (200 ml). The organic phase was separated and the aqueous phase was extracted with ethyl acetate (200 ml). The combined extracts were washed with brine (20 ml), dried (sodium sulfate) and concentrated in vacuo. The residue was purified by column chromatography (silica gel, 200 g; n-hexane/ethyl acetate (1/2)) and obtained solids (1.54 g, 70%) were recrystallized from ethyl acetate to afford the titled compound as brown solids.

reactant | ammonium chloride | 3.7 mmol, 200 mg | [Cl-].[NH4+]
reactant | (E)-5-nitro-1-(2-pyridyl)-2-styryl-1H-benzimidazole | 7.0 mmol, 2.41 g | [N+](=O)([O-])C1=CC2=C(N(C(=N2)\C=C\C2=CC=CC=C2)C2=NC=CC=C2)C=C1 | C20H14N4O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 25 ml | O | H2O
catalyst | Iron | 35 mmol, 1.95 g | [Fe] | Fe
product | (E)-5-Amino-1-(2-pyridyl)-2-styryl-1H-benzimidazole | 1.54 g, 70% | NC1=CC2=C(N(C(=N2)\C=C\C2=CC=CC=C2)C2=NC=CC=C2)C=C1 | C20H16N4
